US06784185B2
4-[(5-Acetyl-2-propoxybenzoyl)amino]-5-propyl-1-(pyridin-2-yl methyl)-1H-pyrazole-3-carboxamide
Oxalyl chloride (1.6 ml, 18 mmol) was added to an ice-cooled solution of 5-acetyl-2-n-propoxybenzoic acid (WO 9312095) (2 g, 9 mmol) in N,N-dimethylformamide (0.2 ml) and dichloromethane (200 ml) under nitrogen. Once addition was complete the solution was allowed to warm to room temperature for 3 hours and the solvent was removed under reduced pressure. The intermediate acid chloride was dissolved in pyridine (50 ml) and 4-amino-5-propyl-1-(pyridin-2-ylmethyl)-1H-pyrazole -3-carboxamide (WO 9954333) (1.5 g, 5.8 mmol) and the reaction was stirred at reflux for 3 hours, then at room temperature for 18 hours. The mixture was partitioned between dilute sodium carbonate solution and dichloromethane, and the organic layer was dried over Na2SO4 and concentrated under reduced pressure. The residue was purified by column chromatography on silica gel using dichloromethane:methanol (100:0 changing to 98:2 then 92:8) to afford the title compound as a beige solid, 1.5 g.

reactant | Oxalyl chloride | 18 mmol, 1.6 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 5-acetyl-2-n-propoxybenzoic acid | 9 mmol, 2 g | C(C)(=O)C=1C=CC(=C(C(=O)O)C1)OCCC | C12H14O4
reactant | 4-amino-5-propyl-1-(pyridin-2-ylmethyl)-1H-pyrazole -3-carboxamide | 5.8 mmol, 1.5 g | NC=1C(=NN(C1CCC)CC1=NC=CC=C1)C(=O)N | C13H17N5O
solvent | N,N-dimethylformamide | 0.2 ml | CN(C=O)C | C3H7NO
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | 4-[(5-Acetyl-2-propoxybenzoyl)amino]-5-propyl-1-(pyridin-2-yl methyl)-1H-pyrazole-3-carboxamide | C(C)(=O)C=1C=CC(=C(C(=O)NC=2C(=NN(C2CCC)CC2=NC=CC=C2)C(=O)N)C1)OCCC | C25H29N5O4
